US09062078B2
Step A: 7-methylimidazo[1,2-a]pyridine-8-carboxylic acid.
Prepared analogous to Example 82 substituting 6-amino-3-methylpicolinic acid with 2-amino-4-methylnicotinic acid.

reactant | 6-amino-3-methylpicolinic acid | NC1=CC=C(C(=N1)C(=O)O)C | C7H8N2O2
reactant | 2-amino-4-methylnicotinic acid | NC1=C(C(=O)O)C(=CC=N1)C | C7H8N2O2
product | 7-methylimidazo[1,2-a]pyridine-8-carboxylic acid | CC1=C(C=2N(C=C1)C=CN2)C(=O)O | C9H8N2O2
